.LIB ptm7hp
.lib 'param.inc' 7nm
.subckt nfet_hp d g s x l=lg nfin=1
.include 'modelfiles\hp\7nfet.pm'
mnfet d g s x nfet L=l NFIN=nfin
.ends nfet

.subckt pfet_hp d g s x l=lg nfin=1
.include 'modelfiles\hp\7pfet.pm'
mpfet d g s x pfet L=l NFIN=nfin
.ends pfet
.endl ptm7hp
*=====================================================================
.LIB ptm7lstp
.lib 'param.inc' 7nm
.subckt nfet_lstp d g s x l=lg nfin=1
.include 'modelfiles\lstp\7nfet.pm'
mnfet d g s x nfet L=l NFIN=nfin
.ends nfet

.subckt pfet_lstp d g s x l=lg nfin=1
.include 'modelfiles\lstp\7pfet.pm'
mpfet d g s x pfet L=l NFIN=nfin
.ends pfet
.endl ptm7lstp
*=====================================================================


.LIB ptm10hp
.lib 'param.inc' 10nm
.subckt nfet_hp d g s x l=lg nfin=1
.include 'modelfiles\hp\10nfet.pm'
mnfet d g s x nfet L=l NFIN=nfin
.ends nfet

.subckt pfet_hp d g s x l=lg nfin=1
.include 'modelfiles\hp\10pfet.pm'
mpfet d g s x pfet L=l NFIN=nfin
.ends pfet
.endl ptm10hp
*=====================================================================
.LIB ptm10lstp
.lib 'param.inc' 10nm
.subckt nfet_lstp d g s x l=lg nfin=1
.include '\modelfiles\lstp\10nfet.pm'
mnfet d g s x nfet L=l NFIN=nfin
.ends nfet

.subckt pfet_lstp d g s x l=lg nfin=1
.include 'modelfiles\lstp\10pfet.pm'
mpfet d g s x pfet L=l NFIN=nfin
.ends pfet
.endl ptm10lstp
*=====================================================================
*=====================================================================
.LIB ptm14hp
.lib 'param.inc' 14nm
.subckt nfet_hp d g s x l=lg nfin=1
.include 'modelfiles\hp\14nfet.pm'
mnfet d g s x nfet L=l NFIN=nfin
.ends nfet

.subckt pfet_hp d g s x l=lg nfin=1
.include 'modelfiles\hp\14pfet.pm'
mpfet d g s x pfet L=l NFIN=nfin
.ends pfet
.endl ptm14hp
*=====================================================================
.LIB ptm14lstp
.lib 'param.inc' 14nm
.subckt nfet_lstp d g s x l=lg nfin=1
.include 'modelfiles\lstp\14nfet.pm'
mnfet d g s x nfet L=l NFIN=nfin
.ends nfet

.subckt pfet_lstp d g s x l=lg nfin=1
.include 'modelfiles\lstp\14pfet.pm'
mpfet d g s x pfet L=l NFIN=nfin
.ends pfet
.endl ptm14lstp
*=====================================================================
*=====================================================================


.LIB ptm16hp
.lib 'param.inc' 16nm
.subckt nfet_hp d g s x l=lg nfin=1
.include 'modelfiles\hp\16nfet.pm'
mnfet d g s x nfet L=l NFIN=nfin
.ends nfet

.subckt pfet_hp d g s x l=lg nfin=1
.include 'modelfiles\hp\16pfet.pm'
mpfet d g s x pfet L=l NFIN=nfin
.ends pfet
.endl ptm16hp
*=====================================================================
.LIB ptm16lstp
.lib 'param.inc' 16nm
.subckt nfet_lstp d g s x l=lg nfin=1
.include 'modelfiles\lstp\16nfet.pm'
mnfet d g s x nfet L=l NFIN=nfin
.ends nfet

.subckt pfet_lstp d g s x l=lg nfin=1
.include 'modelfiles\lstp\16pfet.pm'
mpfet d g s x pfet L=l NFIN=nfin
.ends pfet
.endl ptm16lstp
*=====================================================================

*=====================================================================


.LIB ptm20hp
.lib 'param.inc' 20nm
.subckt nfet_hp d g s x l=lg nfin=1
.include 'modelfiles\hp\20nfet.pm'
mnfet d g s x nfet L=l NFIN=nfin
.ends nfet

.subckt pfet_hp d g s x l=lg nfin=1
.include 'modelfiles\hp\20pfet.pm'
mpfet d g s x pfet L=l NFIN=nfin
.ends pfet
.endl ptm20hp
*=====================================================================
.LIB ptm20lstp
.lib 'param.inc' 20nm
.subckt nfet_lstp d g s x l=lg nfin=1
.include 'modelfiles\lstp\20nfet.pm'
mnfet d g s x nfet L=l NFIN=nfin
.ends nfet

.subckt pfet_lstp d g s x l=lg nfin=1
.include 'modelfiles\lstp\20pfet.pm'
mpfet d g s x pfet L=l NFIN=nfin
.ends pfet
.endl ptm20lstp
*=====================================================================
